US06432950B1
With the procedure of Example 1, the reaction of phenethylamine with 4-chloro-2-(pyrazin-2-yl)-6-chloro-thieno-[2,3-d]-pyrimidine yields 2-pyrazin-2-yl)-4-phenethylamino-6-chloro-thieno-[2,3-d]-pyrimidine.

reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
reactant | 4-chloro-2-(pyrazin-2-yl)-6-chloro-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C1=NC=CN=C1)SC(=C2)Cl | C10H4Cl2N4S
product | 4-phenethylamino-6-chloro-thieno-[2,3-d]-pyrimidine | C(CC1=CC=CC=C1)NC=1C2=C(N=CN1)SC(=C2)Cl | C14H12ClN3S
